US07777047B2
2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-amine
2-[5-(Dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-7-nitro-1H-indole (100 mg) was suspended in ethanol, and 10% palladium-carbon (50% containing water, 50 mg) was added under nitrogen atmosphere. Hydrazine monohydrate (0.07 mL) was added to the mixture, and the mixture was stirred at 90° C. for 2 hr. Hydrazine monohydrate (0.07 mL) was added again, and the mixture was further stirred at 90° C. for 1 hr. The reaction solution was allowed to cool to room temperature, the catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=30:70-80:20) to give the title compound (27 mg, yield 29%) as a orange oil.

reactant | 2-[5-(Dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-7-nitro-1H-indole | 100 mg | COC(C1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OCCOC)[N+](=O)[O-])OC | C17H21N3O6S
reactant | Hydrazine monohydrate | 0.07 mL | O.NN
reactant | Hydrazine monohydrate | 0.07 mL | O.NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-amine | 27 mg, yield 29% | COC(C1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OCCOC)N)OC | C17H23N3O4S
